US04245107
456 mg. of 2-(p-hydroxybenzylsulfinyl)propionic acid and 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 291 mg. of 7-[2-(p-hydroxybenzylsulfinyl)propionamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 2-(p-hydroxybenzylsulfinyl)propionic acid | OC1=CC=C(CS(=O)C(C(=O)O)C)C=C1 | C10H12O4S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
product | 7-[2-(p-hydroxybenzylsulfinyl)propionamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | OC1=CC=C(CS(=O)C(C(=O)NC2[C@@H]3N(C(=C(CS3)C(C)SC3=NN=NN3)C(=O)O)C2=O)C)C=C1 | C20H22N6O6S3
